US06093345
Step 2: (R)-3-Methylheptanal (compound (49), R1 =n-butyl)
In a 300 ml flask were charged 86 ml of hexane and 56 g of (R)-3-methyl-1-heptenyldiethylamine obtained in Step 1, followed by cooling to 0° C. To the solution was added 73 g of 20% sulfuric acid over 1.5 hours, followed by stirring for 20 minutes. After completion of the reaction, 50 ml of diethyl ether was added thereto, and the reaction mixture was washed with water. The solvent was removed by distillation to obtain 34.2 g (86.2%) of a crude product.

reactant | hexane | 86 ml | CCCCCC | C6H14
reactant | sulfuric acid | 73 g | S(O)(O)(=O)=O | H2O4S
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (R)-3-Methylheptanal | 34.2 g, 86.2% | C[C@@H](CC=O)CCCC | C8H16O
